US04350817
A stirred mixture of 4 g. of 2-chloronicotinonitrile in 200 ml. of a saturated ethanolic ethylamine solution was heated under reflux for 5 hours. The solution was cooled and was diluted with 400 ml. of water. The precipitate of 2-ethylaminonicotinonitrile which formed was collected, air dried and was used directly in the next step without further purification.

reactant | 2-chloronicotinonitrile | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | 2-ethylaminonicotinonitrile | C(C)NC1=C(C#N)C=CC=N1 | C8H9N3
